US05134183
2-Cyano-2-methyleicosane
To a solution of 24 mL of a 2.5M n-butyllithium solution in hexanes and 60 mL of tetrahydrofuran at -78° C. is added dropwise 6.07 g of diisopropylamine. After the reaction mixture is stirred at this temperature for 15 minutes, a solution of 5.5 mL of isobutyronitrile in 60 mL of tetrahydrofuran is added dropwise and the resultant reaction mixture is stirred for 2 hours at -78° C. To the reaction mixture at room temperature is added a solution of 20 g of 1-bromooctadecane in 50 mL of tetrahydrofuran. The reaction mixture is stirred for 18 hours at room temperature and then 100 mL of saturated ammonium chloride is added. To the reaction mixture is added 100 mL of diethyl ether and the organic phase is separated. The organic phase is dried over anhydrous magnesium sulfate and the solvent is removed in vacuo to give 18.2 g of the title compound as a white solid. The 1H NMR spectrum is consistent with the desired product.

reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | diisopropylamine | 6.07 g | C(C)(C)NC(C)C | C6H15N
reactant | isobutyronitrile | 5.5 mL | C(C(C)C)#N | C4H7N
reactant | 1-bromooctadecane | 20 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-Cyano-2-methyleicosane | 18.2 g | C(#N)C(C)(CCCCCCCCCCCCCCCCCC)C | C22H43N
